US08211919B2
To a refluxing mixture of 3-fluoro-4-(4-nitrophenyl)pyridine (2.23 g), trichloroiron (130 mg) and activated carbon (1.12 g, 50 wt % of the starting material) in ethanol (74 mL) was added dropwise hydrazine hydrate (1.6 g), and the mixture was stirred for 3 hours. The insoluble materials were removed by filtration in hot and washed with ethanol. Most of ethanol was removed in vacuo, and to the residue was added water. Resulting solid was collected by filtration, and purified by column chromatography on silica gel eluting with hexane/ethyl acetate (1:2) to afford 4-(3-fluoropyridin-4-yl)aniline (1.36 g) a pale orange solid.

reactant | 3-fluoro-4-(4-nitrophenyl)pyridine | 2.23 g | FC=1C=NC=CC1C1=CC=C(C=C1)[N+](=O)[O-] | C11H7FN2O2
reactant | hydrazine hydrate | 1.6 g | O.NN
solvent | ethanol | 74 mL | C(C)O | C2H6O
catalyst | trichloroiron | 130 mg | Cl[Fe](Cl)Cl
product | 4-(3-fluoropyridin-4-yl)aniline | 1.36 g | FC=1C=NC=CC1C1=CC=C(N)C=C1 | C11H9FN2
